US08044068B2
A mixture of 2,4-dichloro-7-fluoroquinazoline (250 mg), piperidine-4-carboxylic acid dimethylamide (189 mg), triethylamine (0.24 mL), THF (6 mL), and DMF (4 mL) was stirred at room temperature for 13 h. The reaction mixture was diluted with a mixture of chloroform and saturated aqueous sodium hydrogencarbonate, and then the aqueous layer was extracted 3 times with chloroform. The organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=7:3) to obtain colorless solid 1-(2-chloro-7-fluoroquinazolin-4-yl)piperidine-4-carboxylic acid dimethylamide (407 mg). (2) A mixture of 1-(2-chloro-7-fluoroquinazolin-4-yl)piperidine-4-carboxylic acid dimethylamide (250 mg), 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (265 mg), N,N-diisopropylethylamine (0.32 mL), and n-butanol (1.2 mL) was heated at 120° C. for 57 h with stirring. The reaction mixture was diluted with a mixture of chloroform and saturated aqueous sodium hydrogencarbonate, and then the aqueous layer was extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=4:1−ethyl acetate, and silica gel, chloroform/methanol=95:5). The resulting purification product was dissolved in ethyl acetate (2.0 mL), followed by addition of a solution (0.1 mL) of 4 M HCl in ethyl acetate, and the mixture was stirred at room temperature for 3.5 h. The solvent was evaporated under reduced pressure to obtain the amorphous title compound (110 mg).

reactant | 2,4-dichloro-7-fluoroquinazoline | 250 mg | ClC1=NC2=CC(=CC=C2C(=N1)Cl)F | C8H3Cl2FN2
reactant | piperidine-4-carboxylic acid dimethylamide | 189 mg | CN(C(=O)C1CCNCC1)C | C8H16N2O
reactant | triethylamine | 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(2-chloro-7-fluoroquinazolin-4-yl)piperidine-4-carboxylic acid dimethylamide | 407 mg | CN(C(=O)C1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)F)Cl)C | C16H18ClFN4O
